US04025517
To a stirring suspension of creatinine (11.88 g, 0.105 mole) in 100 ml dry DMF, p-tolylisocyanate (13.31 g- 0.100 mole) is added dropwise over a period of about 15 minutes with cooling. After stirring for 3.5 hrs., the mixture is poured into about 500 ml iced-water to give white crystals of product which are filtered off and washed with water. Recrystallization of the product from acetone-methanol and then from THF-methanol affords the product, 1-(1-methyl-4-oxo-2-imidazolidinylidene)-3-p-tolyl urea. The crystalline particles are reduced to finer size by adding a solution of the thus-obtained product in minimal DMF to about 1.1 liters of vigorously stirring water, filtering off and drying the resultant fine crystals in vacuo for 24 hours; m.p. 198°-200° C. dec.

reactant | creatinine | 0.105 mole, 11.88 g | CN1CC(=O)N=C1N | C4H7N3O
reactant | water | O | H2O
reactant | p-tolylisocyanate | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-(1-methyl-4-oxo-2-imidazolidinylidene)-3-p-tolyl urea | CN1C(NC(C1)=O)=NC(=O)NC1=CC=C(C=C1)C | C12H14N4O2
